US03968217
5-{3-[4-(4-Fluorobenzoyl)piperidinyl]propyl}-10,11-dihydro5H-dibenz[b,f]azepine.
A stirred mixture containing 4.5 gms. (0.017 mole) of 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine, 3.4 gms (0.017 mole) of 4-(4-fluorobenzoyl)piperidine, 10.0 gms. of potassium carbonate and 75 ml. of dimethylformamide was heated at 90°-100°C. for 16 hours. The cooled suspension was filtered, the solvent removed at reduced pressure and the residual oil was taken up in ether and filtered to remove insoluble materials. The clear filtrate was treated with a solution of 2.1 gms. (0.017 mole) of oxalic acid dihydrate in isopropanol. The oxalate which separated on cooling was collected by filtration. The salt melted at 150°-155°C. and weighed 2.9 gms. (32% yield). After recrystallization from isopropanol the salt melted at 156°-159°C.

reactant | 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine | 0.017 mole | ClCCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H18ClN
reactant | 4-(4-fluorobenzoyl)piperidine | 0.017 mole, 3.4 gms | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | oxalic acid dihydrate | 0.017 mole | O.O.C(C(=O)O)(=O)O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-{3-[4-(4-Fluorobenzoyl)piperidinyl]propyl}-10,11-dihydro5H-dibenz[b,f]azepine | 32% yield | FC1=CC=C(C(=O)C2CCN(CC2)CCCN2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=C1 | C29H31FN2O
